US06887874B2
A suspension of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline (60 mg, 0.187 mmol), 4-fluoro-5-hydroxy-2-methylindole (46 mg, 0.28 mmol) and cesium carbonate (121 mg, 0.37 mmol) in DMA (2 ml) was heated at 100° C. for 2 hours. The volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methanol/methylene chloride (5/95) followed by methanol saturated with ammonia/methylene chloride (5/95). The fractions containing the expected product were combined and evaporated. The residue was triturated with a mixture of pentane/ether. The solid was filtered, washed with pentane and dried under vacuum to give 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline (32 mg, 38%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline | 0.187 mmol, 60 mg | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 0.28 mmol, 46 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | cesium carbonate | 0.37 mmol, 121 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)cinnoline | 32 mg, 38% | FC1=C2C=C(NC2=CC=C1OC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1)C | C25H27FN4O3
